* rf_bandpass.ngspice — Qucs-s dual-pi LC band-pass, fc=50 MHz BW=20 MHz
* Ports: P1 (source, 50 Ω), P2 (load, 50 Ω). Two parallel LC tanks to ground.

Vin p1 0 AC 1 0
Rs  p1 n1 50

* Shunt tank 1
L1  n1 0  22nH
C1  n1 0  470pF

* Series element (coupling)
Lc  n1 n2 4.7nH
Cc  n1 n2 100pF

* Shunt tank 2
L2  n2 0  22nH
C2  n2 0  470pF

Rl  n2 0  50

.ac dec 30 1meg 500meg
.print ac v(p1) v(n1) v(n2)
.end
